US05110815
5,6,7,8-Tetrahydro-5-methyl-5-(methylamino)-2(1H)-quinolinone hydrochloride
5,6,7,8-Tetrahydro-N,5-dimethyl-2-(phenylmethoxy)-5-quinolinamine (6.3 g) in ethanol (500 ml) was acidified to ca pH2 with a solution of hydrochloric acid in 2-propanol. 10% Palladium-on-carbon (315 mg) was added and the mixture was shaken on Parr hydrogenation apparatus, starting at 55 psi of hydrogen, until hydrogen uptake ceased. The catalyst was collected and the filtrate was neutralized with 4-polyvinylpyridine. The solution was concentrated in vacuo to a volume of about 75 ml and diethyl ether was added. The precipitate was collected and recrystallized first from methanol and then from water/2-propanol to afford 1.3 g (25%) of product, mp 190°-195° C. (dec).

reactant | 5,6,7,8-Tetrahydro-N,5-dimethyl-2-(phenylmethoxy)-5-quinolinamine | 6.3 g | CNC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C | C18H22N2O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | 2-propanol | CC(C)O | C3H8O
catalyst | Palladium-on-carbon | 315 mg | [Pd] | Pd
product | 5,6,7,8-Tetrahydro-5-methyl-5-(methylamino)-2(1H)-quinolinone hydrochloride | 1.3 g, 25% | Cl.CC1(C=2C=CC(NC2CCC1)=O)NC | InChI=1S/C11H16N2O.ClH/c1-11(12-2)7-3-4-9-8(11)5-6-10(14)13-9;/h5-6,12H,3-4,7H2,1-2H3,(H,13,14);1H
